US07838543B2
N-{2-[(2-Dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-4-thiophen-2-yl-benzamide
The title compound is prepared by following General Method A, using 4-thiophen-2-yl-benzoic acid (0.098 g, 0.48 mmol), and N*2*-(2-dimethylamino-ethyl)-N*2*-methyl-benzothiazole-2,6-diamine (0.10 g, 0.40 mmol) to afford the title compound as a white solid. LC/MS: Retention time=4.37 min; (m/z): calcd for C23H24N4OS2 (M+H)+: 437.6; found: 437.3.

reactant | 4-thiophen-2-yl-benzoic acid | 0.48 mmol, 0.098 g | S1C(=CC=C1)C1=CC=C(C(=O)O)C=C1 | C11H8O2S
reactant | N*2*-(2-dimethylamino-ethyl)-N*2*-methyl-benzothiazole-2,6-diamine | 0.40 mmol, 0.10 g | CN(CCN(C=1SC2=C(N1)C=CC(=C2)N)C)C | C12H18N4S
product | N-{2-[(2-Dimethylamino-ethyl)-methyl-amino]-benzothiazol-6-yl}-4-thiophen-2-yl-benzamide | CN(CCN(C=1SC2=C(N1)C=CC(=C2)NC(C2=CC=C(C=C2)C=2SC=CC2)=O)C)C | C23H24N4OS2
